US04820866
1,3-bis-(4-aminophenoxy)-2,2,4-trimethylpentane
250 g 1,3-bis-(4-nitrophenoxy)-2,2,4-trimethyl-pentane were hydrogenated as in Example 10 in 1300 ml DMF in the presence of 39 g Raney nickel.

reactant | 1,3-bis-(4-nitrophenoxy)-2,2,4-trimethyl-pentane | 250 g | [N+](=O)([O-])C1=CC=C(OCC(C(C(C)C)OC2=CC=C(C=C2)[N+](=O)[O-])(C)C)C=C1 | C20H24N2O6
solvent | DMF | 1300 ml | CN(C)C=O | C3H7NO
catalyst | Raney nickel | 39 g | [Ni] | Ni
product | 1,3-bis-(4-aminophenoxy)-2,2,4-trimethylpentane | NC1=CC=C(OCC(C(C(C)C)OC2=CC=C(C=C2)N)(C)C)C=C1 | C20H28N2O2
